US08133913B2
2nd stage: 4b,9b-Dihydroxy-5-isopropyl-4b,5,6,7,8,9b-hexahydroindeno[1,2-b]indole-9,10-dione
Equimolar amounts of 3-isopropylaminocyclohex-2-enone and indanetrione hydrate (ninhydrin) were dissolved in chloroform and stirred at room temperature for 12 h. The solvent was then stripped off, and the oily residue was crystallized from acetone.

reactant | 3-isopropylaminocyclohex-2-enone | C(C)(C)NC1=CC(CCC1)=O | C9H15NO
reactant | indanetrione hydrate | O.C1(C(C(C2=CC=CC=C12)=O)=O)=O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 4b,9b-Dihydroxy-5-isopropyl-4b,5,6,7,8,9b-hexahydroindeno[1,2-b]indole-9,10-dione | OC12N(C=3CCCC(C3C1(C(C1=CC=CC=C12)=O)O)=O)C(C)C | C18H19NO4
